US05998452
Preparation of 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-(3-bromopropyl)-5-ethoxycarbonylmethyl-1,3-thiazolidin-4-one
To a suspension of 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(3-hydroxypropyl)-5-carboxymethyl-1,3-thiazolidin-4-one (2.45 g) in diethyl ether (30 ml) was added phosphorus tribromide (3.45 g), and the mixture was stirred at room temperature for 3 hours. To the mixture was added dropwise ethanol (30 ml) under cooling with ice, the mixture was stirred at room temperature overnight. After completion of the reaction, the reaction mixture was poured into 100 ml of ice-water, and the product was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane, 20:80) and then recrystallized from chloroform/n-hexane to afford 1.50 g (51%) of the title compound as colorless crystals. mp 154-155° C. NMR (CDCl3) (200 MHz) δ: 1.26 (3H, t, J7.1 Hz), 1.43 (18H, s), 1.6-2.2 (2H, m), 2.6-3.1 (2H, m), 3.2-3.6 (4H, m), 4.17 (2H, q, J=7.1 Hz), 4.1-4.4 (1H, m), 5.33 (1H, s), 5.53 (1H, s), 7.14 (2H, s)

reactant | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(3-hydroxypropyl)-5-carboxymethyl-1,3-thiazolidin-4-one | 2.45 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SC(C(N1CCCO)=O)CC(=O)O | C22H33NO5S
reactant | phosphorus tribromide | 3.45 g | P(Br)(Br)Br | Br3P
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-(3-bromopropyl)-5-ethoxycarbonylmethyl-1,3-thiazolidin-4-one | 1.50 g, 51% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SC(C(N1CCCBr)=O)CC(=O)OCC | C24H36BrNO4S
